US07872014B2
To NaH (60 wt. % dispersion in oil; 0.09 g, 2.25 mmol) suspended in THF (4 mL) was added (2,5-difluoro-3-{[(methyloxy)methyl]oxy}phenyl)acetonitrile (0.240 g, 1.13 mmol) and then 1-acetylimidazole (0.186 g, 1.69 mmol). The mixture was stirred at 40° C. for 0.3 h. The mixture was cooled to room temperature, was acidified with 1 N HCl and ethyl acetate. The organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellow oil which was dissolved in dichloromethane:MeOH (1:1, 8 mL) and treated with para-toluenesulfonic acid monohydrate (0.045 g, 0.237 mmol) at 40° C. for 15 h. The mixture was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellow oil which was dissolved in EtOH (4 mL) and treated with tert-butylhydrazine hydrochloride (0.136 g, 1.09 mmol) at 75° C. for 18 h and at room temperature for 38 h. The mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford 3-[5-amino-1-(1,1-dimethylethyl)-3-methyl-1H-pyrazol-4-yl]-2,5-difluorophenol as a pale brown solid (0.248 g, 0.883 mmol, 78% yield). MS (EI) for C14H17F2N3O: 282 (MH+).

reactant | NaH | 2.25 mmol, 0.09 g | [H-].[Na+]
reactant | (2,5-difluoro-3-{[(methyloxy)methyl]oxy}phenyl)acetonitrile | 1.13 mmol, 0.240 g | FC1=C(C=C(C=C1OCOC)F)CC#N | C10H9F2NO2
reactant | 1-acetylimidazole | 1.69 mmol, 0.186 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | HCl | 1 N | Cl | ClH
reactant | para-toluenesulfonic acid monohydrate | 0.237 mmol, 0.045 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | tert-butylhydrazine hydrochloride | 1.09 mmol, 0.136 g | Cl.C(C)(C)(C)NN
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | dichloromethane MeOH | 8 mL | ClCCl.CO
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[5-amino-1-(1,1-dimethylethyl)-3-methyl-1H-pyrazol-4-yl]-2,5-difluorophenol | 0.883 mmol, 0.248 g, 78% yield | NC1=C(C(=NN1C(C)(C)C)C)C=1C(=C(C=C(C1)F)O)F | C14H17F2N3O
